US07544683B2
trans-{4-[5-(3,4-Difluoro-phenyl)-pyridin-2-yloxy]-cyclohexyl}-(4-isopropyl-piperazin-1-yl)-methanone
A mixture of 120 mg (0.29 mmol) of [4-(5-bromo-pyridin-2-yloxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone, 69 mg (0.44 mmol) of 3,4-difluorophenylboronic acid, 34 mg (0.03 mmol) of tetrakis(triphenylphosphine)palladium, and 93 mg (0.88 mmol) of sodium carbonate, 1.5 ml of toluene and 0.5 ml of water was refluxed for 5 hr under Ar. The mixture was diluted with AcOEt, washed with saturated NaHCO3 solution and brine, dried over MgSO4, and evaporated. The residue was purified by column chromatography on silica eluting with cyclohexane and ethyl acetate=from 100:0 to 4:1. The combined product fractions were evaporated to dryness to yield 22 mg (17%) of the title compound. MS (m/e): 444.2 (MH+).

reactant | [4-(5-bromo-pyridin-2-yloxy)-cyclohexyl]-(4-isopropyl-piperazin-1-yl)-methanone | 0.29 mmol, 120 mg | BrC=1C=CC(=NC1)OC1CCC(CC1)C(=O)N1CCN(CC1)C(C)C | C19H28BrN3O2
reactant | 3,4-difluorophenylboronic acid | 0.44 mmol, 69 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 0.88 mmol, 93 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | AcOEt | CCOC(=O)C | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.03 mmol, 34 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 0.5 ml | O | H2O
product | trans-{4-[5-(3,4-Difluoro-phenyl)-pyridin-2-yloxy]-cyclohexyl}-(4-isopropyl-piperazin-1-yl)-methanone | 22 mg, 17% | FC=1C=C(C=CC1F)C=1C=CC(=NC1)O[C@@H]1CC[C@H](CC1)C(=O)N1CCN(CC1)C(C)C | C25H31F2N3O2
